US04845097
Synthesis of 5-chloro-4-{2-[4-(1,3-dioxolan-2-ylmethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine (Compound No. 199)
10.0 g of 5-chloro-4-[2-(4-formylmethyl-2-methylphenoxy)ethylamino]-6-methylpyrimidine and 3.0 g of ethylene glycol were dissolved in 300 ml of toluene. A small amount of p-toluenesulfonic acid was added to the solution, and the reaction vessel was equipped with a device for quantitatively determining water. The mixture was then heated under reflux for 8 hours. At the end of this time, the reaction mixture was washed with water and dried over anhydrous sodium sulfate. Toluene was removed by distillation under reduced pressure and the oily product thus obtained was subjected to column chromatography (Wakogel C-200, eluted with a 2:1 by volume mixture of toluene and ethyl acetate) to isolate the product and give 7.9 g of the title compound as a colorless oily liquid, n23.4 =1.5730.

reactant | 5-chloro-4-[2-(4-formylmethyl-2-methylphenoxy)ethylamino]-6-methylpyrimidine | 10.0 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CC=O)C | C16H18ClN3O2
reactant | ethylene glycol | 3.0 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-4-{2-[4-(1,3-dioxolan-2-ylmethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine | 7.9 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CC1OCCO1)C | C18H22ClN3O3
